US06960575B2
(3RS)-3-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-oxo-4-phenyl-1,1,1-trifluorobutane (Compound No. 4-1)
A solution of dimethyl sulfoxide (0.26 ml) in anhydrous methylene chloride (4.0 ml) is cooled with methanol/dry ice, oxalyl chloride (0.16 ml) is added to the solution, and the mixture is stirred for 10 minutes. To the mixture is added a solution of (2RS,3RS)-3-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-hydroxy-4-phenyl-1,1,1-trifluorobutane (0.75 ml, Compound No. 2-1) in anhydrous methylene chloride (3.0 ml). The temperature is raised to 0° C., triethylamine (0.75 ml) is added thereto, and the whole is stirred for one hour. Ethyl acetate is added to the reaction mixture, the whole is washed with a saturated aqueous ammonium chloride solution and saturated brine successively, and the organic layer is dried over anhydrous magnesium sulfate. The organic layer is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (154 mg).

reactant | dimethyl sulfoxide | 0.26 ml | CS(=O)C | C2H6OS
reactant | methanol dry ice | CO.C(=O)=O
reactant | oxalyl chloride | 0.16 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2RS,3RS)-3-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-hydroxy-4-phenyl-1,1,1-trifluorobutane | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O)CC1=CC=CC=C1)=O)C(C)C | C27H30F3N3O4
solvent | methylene chloride | 4.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.75 ml | C(C)N(CC)CC | C6H15N
product | (3RS)-3-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-oxo-4-phenyl-1,1,1-trifluorobutane | 154 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)CC1=CC=CC=C1)=O)C(C)C | C27H28F3N3O4
